US06552021B2
4-Methoxypyrido[4,3-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (0.056 g, 0.16 mmol) was dissolved in glacial AcOH (5 mL) and hydrobromic acid (48/50% w w; (2 mL). The mixture was refluxed for 30 min, then cooled and neutralized with solid NaHCO3. The product was extracted into CH2Cl2 (3×25 mL) dried (Na2SO4) and evaporated to give 4-hydroxypyrido[4,3-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (0.018 g, 33%): mp (CH2Cl2/hexane) 268-270° C. 1H NMR (CDCl3) δ 2.32 [s, 6 H, N(CH3)2], 2.61 [t, J=5.9 Hz, 2 H, CH2N(CH3)2], 3.69 (q, J=5.7 Hz, 2 H, CH2NH), 7.70 (d, J=7.1 Hz, 1 H, H-2), 7.99 (d, J=7.1 Hz, 1 H, H-1), 8.11 (d, J=9.2 Hz, 1 H, H-5),8.14 (dd, J=8.5, 7.2 Hz, 1 H, H-9), 8.46 (dd, J=8.6, 1.4 Hz, 1 H, H-8), 8.52 (d, J=9.2 Hz, 1 H, H-6), 9.98 (t, J=5.1 Hz, 1 H, CONH), 12.16 (br, 1 H, OH).

reactant | 4-Methoxypyrido[4,3-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 0.16 mmol, 0.056 g | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CN=C4OC)C | C21H21N5O2
reactant | hydrobromic acid | Br | BrH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | 4-hydroxypyrido[4,3-α]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 0.018 g, 33% | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CN=C4O)C | C20H19N5O2
